US04443626
Twenty-two (22) grams of 3-pyrrolidino-5-chloroindene and 18 g of methyl acrylate were dissolved in 70 ml of dioxane, refluxed for 5 hours and freed of the solvent by distilling it off, to obtain a residue. The thus obtained residue was incorporated with 100 ml of acetic acid and 100 ml of hydrochloric acid and heated for 3 hours. After the end of the reaction, the resulting reaction mixture was freed of the solvent by distilling it off under a reduced pressure and incorporated with iced water to precipitate crystals. The crystals so precipitated were filtered off, washed with water, dried and then recrystallized from ethyl acetate to obtain 16 g of 6-chloro-1-oxo-2,3-dihydro-2-indene propionic acid in the colorless needle form.

reactant | 3-pyrrolidino-5-chloroindene | N1(CCCC1)C1=CCC2=CC=C(C=C12)Cl | C13H14ClN
reactant | methyl acrylate | 18 g | C(C=C)(=O)OC | C4H6O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-1-oxo-2,3-dihydro-2-indene propionic acid | 16 g | ClC1=CC=C2CC(C(C2=C1)=O)CCC(=O)O | C12H11ClO3
